US05004747
(2RS,4R,6S)-(E)-6-(2-(2-cyclohexylmethyl-4-isopropyl-1-oxo-1,2-dihydroisoquinolin-3-yl)ethen-1-yl)-2,4-dihydroxy-3,4,5,6-tetrahydro-2H-pyran;
(4R,6R)-(E)-4-hydroxy-6-[2-(4-(4-fluorophenyl)-2-isopropyl-1-oxo-1,2-dihydroisoquinolin-3-yl)ethen-1-yl]-3,4,5,6-tetrahydro-2H-pyran-2-one, m.p.207°-209° C. [α]D =-54° (CH2Cl2 at 29° C.) Found: C,71.0; H,5.47; N,3.37%. Required: C,71.2; H,5.74; N,3.32%. [NMR in CDCl3, 1.16 (1H,m), 1.68 (6H,d,J=8 Hz), 1.88 (1H,m), 2.45 (1H,dd,J=17 Hz and J=8 Hz), 2.58 (1H,d,J=5 Hz), 2.90 (1H,m), 4.22 (1H,m), 4.63 (2H,m), 5.50 (1H,dd,J=16 Hz and J=6 Hz), 6.41 (1H,dd,J=16 Hz), 6.98-7.25 (5H,m), 7.49 (2H,m), 8.42 (1H,m)];

reactant | (4R,6R)-(E)-4-hydroxy-6-[2-(4-(4-fluorophenyl)-2-isopropyl-1-oxo-1,2-dihydroisoquinolin-3-yl)ethen-1-yl]-3,4,5,6-tetrahydro-2H-pyran-2-one | O[C@H]1CC(O[C@H](C1)\C=C\C=1N(C(C2=CC=CC=C2C1C1=CC=C(C=C1)F)=O)C(C)C)=O | C25H24FNO4
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (2RS,4R,6S)-(E)-6-(2-(2-cyclohexylmethyl-4-isopropyl-1-oxo-1,2-dihydroisoquinolin-3-yl)ethen-1-yl)-2,4-dihydroxy-3,4,5,6-tetrahydro-2H-pyran | C1(CCCCC1)CN1C(C2=CC=CC=C2C(=C1/C=C/[C@@H]1C[C@H](CC(O1)O)O)C(C)C)=O | C26H35NO4
